US06479608B1
1-t-Butyl-5,5-diethyl-3,3-dimethyl-piperazin-2-on (253)
In analogy to Example B21, 1,1-diethyl-2-t-butylaminoethylamin, aceton, chloroform and NaOH are reacted to give the title compound (77%) as an yellow oil.

reactant | 1,1-diethyl-2-t-butylaminoethylamin | C(C)C(CNC(C)(C)C)(CC)N | C10H24N2
reactant | aceton | CC(=O)C | C3H6O
reactant | NaOH | [OH-].[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-t-Butyl-5,5-diethyl-3,3-dimethyl-piperazin-2-on | 77% | C(C)(C)(C)N1C(C(NC(C1)(CC)CC)(C)C)=O | C14H28N2O
